US06436929B1
A mixture of (1,4-dihydro-4,4-dimethyl-2-oxo-2H-3,1-benzoxazin-6-yl)boronic acid (2.22 g, 10 mmol), 1,3-dibromo-5-fluorobenzene (3.05 g, 12 mmol), tetrakis(triphenylphosphine)palladium (0) (0.6 g, 0.52 mmol), and sodium carbonate (2.2 g, 21 mmol) in a mixture of DME and water (70 mL/15 mL) was degassed to remove the oxygen and then heated at 85° C. under a blanket of nitrogen for 3 hours. The reaction mixture was cooled to ambient temperature and quenched with a saturated aqueous ammonium chloride solution (20 mL). Ethyl acetate (100 mL) was added and organic layer was separated. The aqueous layer was extracted with ethyl acetate (3×30 mL). The combined organic layers were washed with brine and dried with MgSO4. The solvent was removed in vacuo and the residue was purified by a silica gel flash chromatography (hexane:ethyl acetate/1:1) to give 6-(3-bromo-5-fluorophenyl)-4,4-dimethyl-1,4-dihydrobenzo[d][1,3]oxazin-2-one as a white solid (1.4 g, 40%): mp 182-183° C.; 1H-NMR (DMSO-d6) δ10.36 (s, 1H, D2O exchangeable), 7.78 (s, 1H), 7.58-7.65 (m, 3H), 7.49 (dd, 1H, J=8.3, 1.8 Hz), 6.96 (d, 1H, J=8.5 Hz), 1.69 (s, 6H); 19F-NMR (DMSO-d6) δ−112.46 (m, 1F); MS (CI) m/z 352([M+H]+, 78%), 350([M+H]+, 75%). Anal. Calc. For C16H13BrFNO2: C, 54.88; H, 3.74; N, 4.00. Found: C, 54.83; H, 3.82; N, 3.95.

reactant | (1,4-dihydro-4,4-dimethyl-2-oxo-2H-3,1-benzoxazin-6-yl)boronic acid | 10 mmol, 2.22 g | CC1(OC(NC2=C1C=C(C=C2)B(O)O)=O)C | C10H12BNO4
reactant | 1,3-dibromo-5-fluorobenzene | 12 mmol, 3.05 g | BrC1=CC(=CC(=C1)F)Br | C6H3Br2F
reactant | sodium carbonate | 21 mmol, 2.2 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | COCCOC | C4H10O2
solvent | water | 70 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.52 mmol, 0.6 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(3-bromo-5-fluorophenyl)-4,4-dimethyl-1,4-dihydrobenzo[d][1,3]oxazin-2-one | 1.4 g, 40% | BrC=1C=C(C=C(C1)F)C1=CC2=C(NC(OC2(C)C)=O)C=C1 | C16H13BrFNO2
